US04548929
2-Thiabicyclo[2.2.2]oct-5-en-3-one O-(2-tetrahydropyranyl)oxime
A solution of 10 g (0.06 m) of 2-thiabicyclo[2.2.2]oct-5-en-3-one oxime, 9 g (0.1 m) of 98% dihydropyran, and a catalytic amount of p-toluenesulfonic acid in 30 ml of methylene chloride was heated under reflux overnight. Sodium bicarbonate was added to neutrality. The residue after removal of solvent was purified by dry column chromatography (silica gel-ethyl acetate:hexane::1:1) to give 14.4 g of yellow solid. Recrystallization from ether-hexane yielded 10.1 g of the title compound as a white solid, m. 84°-5° C.

reactant | 2-thiabicyclo[2.2.2]oct-5-en-3-one oxime | 10 g | C12SC(C(C=C1)CC2)=NO | C7H9NOS
reactant | dihydropyran | 9 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Thiabicyclo[2.2.2]oct-5-en-3-one O-(2-tetrahydropyranyl)oxime | 14.4 g | O1C(CCCC1)ON=C1SC2C=CC1CC2 | C12H17NO2S
